US07544683B2
trans-1-{4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-phenyl}-piperidin-2-one
To a mixture of 1.04 g (4.09 mmol) of cis-(4-isopropyl-piperazin-1-yl)-(4-hydroxy-cyclohexyl)-methanone, 1.50 g (6.82 mmol) of 4-iodephenol, 1.25 g (4.77 mmol) of triphenylphisphine in 5 ml THF, 1.1 g (4.78 mmol) of di-tert-butyl azodicarboxylate was added at 0° C., and stirred for 12 h at room temperature. After evaporation, the residue was purified by column chromatography on silica gel eluting with cyclohexane and ethyl acetate=from 100:0 to 2:1. The combined product fractions were evaporated to dryness to yield 0.67 g (14% yields, about 67% purity) of [4-(4-iodo-phenoxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone. A mixture 100 mg (0.15 mmol) of [4-(4-iodo-phenoxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone, 87 mg (0.88 mmol) of 2-piperidone, 41 mg (0.3 mmol) of potassium carbonate and 37 mg (0.58 mmol) of copper was stirred at 175 degree for 6 hr. The mixture was diluted with AcOEt, filtered through celite. The filtrate was washed with saturated NaHCO3 solution and brine, dried over MgSO4, and evaporated. The residue was purified by column chromatography on silica eluting with cyclohexane and ethyl acetate=from 100:0 to 1:3. The combined product fractions were evaporated to dryness to yield 30 mg (32%) of the title compound. MS (m/e): 428.3 (MH+).

reactant | [4-(4-iodo-phenoxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone | 0.15 mmol, 100 mg | IC1=CC=C(OC2CCC(CC2)C(=O)N2CCN(CC2)C(C)C)C=C1 | C20H29IN2O2
reactant | 2-piperidone | 0.88 mmol, 87 mg | N1C(CCCC1)=O | C5H9NO
reactant | potassium carbonate | 0.3 mmol, 41 mg | C([O-])([O-])=O.[K+].[K+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | copper | 0.58 mmol, 37 mg | [Cu] | Cu
product | trans-1-{4-[4-(4-Isopropyl-piperazine-1-carbonyl)-cyclohexyloxy]-phenyl}-piperidin-2-one | 30 mg, 32% | C(C)(C)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)OC1=CC=C(C=C1)N1C(CCCC1)=O | C25H37N3O3
